US04680310
50 g of 2-(p-fluorophenyl)-3-methylbutyric acid were dissolved in 200 ml of benzene and treated with 54.2 g of thionyl chloride. The mixture was stirred at 60° for 45 minutes and subsequently heated to reflux for 2 hours. After evaporation of the solvent the residue was distilled, whereby 2-(4-fluorophenyl)-3-methyl-butyryl chloride, b.p. 70°/93 Pa, was obtained.

reactant | 2-(p-fluorophenyl)-3-methylbutyric acid | 50 g | FC1=CC=C(C=C1)C(C(=O)O)C(C)C | C11H13FO2
reactant | thionyl chloride | 54.2 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-fluorophenyl)-3-methyl-butyryl chloride | FC1=CC=C(C=C1)C(C(=O)Cl)C(C)C | C11H12ClFO
